US06492550B2
Methyl 4-(3-tert-Butoxycarbonylphenyl)-2-hydroxybutanoate
To a solution of methyl 4-(3-tert-butoxycarbonylphenyl)butanoate (200 mg, 0.71 mmol) in THF (2 ml) at −78° C. was added dropwise potasium bis(trimethyl)amide (0.5 M in toluene, 1.6 ml, 0.8 mmol). The mixture was stirred at this temperature for 0.5 hours and treated with dropwise addition of a solution of trans-2-phenylsulfonyl-3-phenyloxaziridine (223 mg, 0.8 mmol) in THF (2 ml). The mixture was stirred at −78° C. for 3 hours, quenched with aqueous ammonium chloride, warmed room temperature and diluted with ethyl acetate. The organic phase was washed with aqueous ammonium chloride, brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane:ethyl acetate=9:1) to give the title compound (90 mg, 43%) as a pale yellow oil.

reactant | methyl 4-(3-tert-butoxycarbonylphenyl)butanoate | 0.71 mmol, 200 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)CCCC(=O)OC | C16H22O4
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | Methyl 4-(3-tert-Butoxycarbonylphenyl)-2-hydroxybutanoate | 90 mg, 43% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)CCC(C(=O)OC)O | C16H22O5
